Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
tree nut / bacitracin / nickel / tixocortol pivalate / 
formaldehyde / 3-demethylamino proplyamine / propylene glycol / 
multiple food allergies / cefuroxime / Cherry / apple / peach / 
balsam ___ / nickel 
 
Attending: ___
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F h/o IBS p/w diarrhea x 5 days. She reports having chronic 
diarrhea but worse over the past 5 days, up to 30 explosive 
liquid BMs daily. No bloody diarrhea or abdominal pain. She 
reports intermittent crampy abdominal pain for the past 5 days 
as well, relieved with having a BM. She also reports generalized 
weakness and chills but has not checked her temperature. She has 
chronic mild nausea (not worse than usual), no vomiting. No 
chest pain or shortness of breath. She has not been using her 
imodium because it worsens the pain. Patient was started on 
amitriptyline a few days ago. Last colonoscopy in ___ was 
normal (colon bx normal), last EGD ___ showed gastric polyp 
that was removed.

She emailed her gastroenterologist on ___ (available in Epic) 
with concern about her worsening diarrhea.  Started on 
Amytriptilene 10 mg PO QHS 2 nights ago by her PCP, feels this 
has not helped.  Called back in on ___ reporting worsening 
symptoms (watery diarrhea for 5 days with abdominal cramping, 
episodes of incontinence). She feels that her current symptoms 
are different from what she has had in the past from IBS. She 
felt she could not care for herself at home and came to the ED.  


In the ED, she appeared uncomfortable. Initial VS were 100.0 119 
117/95 16 100%. Exam significant for nontender abdomen.  Labs 
significant for WBC 8.5 w/ 77% PMNs, Hgb 14.5, lytes WNL, BUN/Cr 
___, Lactate 2.4. Her care was discussed with her outpatient 
gastroenterologist, who recommended admission for further 
workup. She received 2L NS and was admitted, as Dr. ___ 
GI doctor), requested admission, unable to keep up with po 
intake at home. Need to rule out infectious cause of diarrhea. 
Transfer VS were 98.4 90 122/79 17 100% RA. No BMs in ED.

On arrival to the floor, patient reports mild abdominal cramping 
with three small episodes of diarrhea in ED.
 
Past Medical History:
IBS
Allergic Rhinitis
Eczema
Depression

 
Social History:
___
Family History:
father died of melanoma, had T2DM, HLD, HTN
mother alive with HLD

 
Physical Exam:
ON ADMISSION:
VITALS:98.4 90 122/79 17 100% RA
GENERAL: NAD, appears older than stated age  
HEENT: AT/NC, EOMI, PERRL, anicteric sclerae, pink conjunctivae, 
patent nares, MMM, good dentition, nontender supple neck, no 
LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

ON DISCHARGE:
VS - 98.6, 96-113/54-56, 69-85, 100 RA  
GENERAL: NAD, appears older than stated age  
HEENT: AT/NC, EOMI, PERRL, anicteric sclerae, pink conjunctivae, 
patent nares, MMM, good dentition, nontender supple neck, no 
LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

 
Pertinent Results:
LABS ON ADMISSION:
___ 01:38PM   WBC-8.5 RBC-4.31 HGB-14.5 HCT-39.5 MCV-92 
MCH-33.5* MCHC-36.6* RDW-14.0
___ 01:38PM   PLT COUNT-216
___ 01:38PM   NEUTS-76.8* LYMPHS-15.4* MONOS-5.5 EOS-1.9 
BASOS-0.4
___ 01:38PM   GLUCOSE-105* UREA N-8 CREAT-0.7 SODIUM-140 
POTASSIUM-3.7 CHLORIDE-105 TOTAL CO2-24 ANION GAP-15
___ 01:42PM   LACTATE-2.4*
___ 01:38PM   CRP-0.4

LABS ON DISCHARGE:

___ 08:35AM BLOOD WBC-4.7 RBC-3.60* Hgb-11.6* Hct-33.2* 
MCV-92 MCH-32.2* MCHC-34.9 RDW-13.9 Plt ___
___ 01:38PM BLOOD Neuts-76.8* Lymphs-15.4* Monos-5.5 
Eos-1.9 Baso-0.4
___ 08:35AM BLOOD Glucose-109* UreaN-6 Creat-0.5 Na-139 
K-3.8 Cl-109* HCO3-24 AnGap-10
___ 08:35AM BLOOD Calcium-8.7 Phos-2.9 Mg-2.0

NO IMAGING THIS ADMISSION
 
Brief Hospital Course:
___ hx IBS presenting with increased frequency of baseline 
diarrhea and poor PO intake.  
 
# Diarrhea: residence, occupational exposure, recent and remote 
travel, pets, and hobbies were unrevealing. No fever, less 
concerning for infection with invasive bacteria (eg, Salmonella, 
Shigella, or Campylobacter), enteric viruses, or a cytotoxic 
organism such as Clostridium difficile or Entamoeba histolytica. 
No hx of unpasteurized dairy products, raw or undercooked meat 
or fish, or organic vitamin preparations. No recent abx use or 
medication changes except amitryptiline. Given flushing, 
consider carcinoid, however, outpatient workup for this is 
ongoing. She has been ruled out for rheumatologic disease, 
inflammatory bowel disease and celiac. Patient's diarrhea 
resolved during admission with only supportive therapy with IVF. 
Spoke to Dr. ___ outpatient gastroenterologist who 
follows her closely, who asked for an infectious workup (stool 
studies) which we were unable to obtain given she did not have 
any BMs. An MRE could be considered to rule out small bowel 
inflammation as an outpatient. Trended CBC, electrolytes, which 
were unremarkable. CRP was not elevated. She tolerated PO intake 
well before being discharged. Patient was very frustrated and 
anxious this admission, feels that her presenting symptoms are 
consistent with the symptoms of her IBS; only her stool 
frequency had increased. 

# Tachycardia: resolved with hydration, likely in the setting of 
volume depletion from several days of diarrhea, as improved with 
IVF. Infectious etiology/?fevers could also contribute. 
Attempted diarrhea workup and continued management as above.
  
CHRONIC ISSUES:  
# Depression:  continued home prozac  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluoxetine 20 mg PO DAILY 
2. Amitriptyline 10 mg PO QHS 
3. Cetirizine 10 mg PO DAILY 
4. LOPERamide 2 mg PO QID:PRN diarrhea 

 
Discharge Medications:
1. Fluoxetine 20 mg PO DAILY 
2. LOPERamide 2 mg PO QID:PRN diarrhea 
3. Cetirizine 10 mg PO DAILY 
4. Amitriptyline 10 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Diarrhea with dehydration

SECONDARY:
Irritable Bowel Syndrome 
Eczema
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It wa a pleasure taking care of you during your hospital stay at 
___. When you came in, you were 
having frequent episodes of diarrhea, and were mildly 
dehydrated. You were admitted to the hospital for care. We 
rehydrated you with fluids while you were here and your diarrhea 
improved to the point that you didn't have any more episodes 
while you were hospitalized.  We attempted to test your stool 
for infections that could cause diarrhea, but we were unable to 
because you did not have any bowel movements during the ~24 
hours that you were here.  You do have IBS, and it seems that 
these symptoms are consistent with your IBS, but more intense. 
There may have been a viral illness that may have made your 
symptoms temporarily worse. You are followed closely in the 
outpatient setting by your PCP and your ___, who 
have an ongoing workup for your symptoms. You should continue to 
follow with them in the outpatient setting for continued care, 
until a final diagnosis is made. This will be an ongoing effort. 
Here in the hospital, your diarrhea improved and we rehydrated 
you. It is now safe for discharge. Please remember to take all 
of your medications as prescribed and be sure to keep your 
follow-up appointments. 

Sincerely,
Your ___ Team
 
Followup Instructions:
___